US05604237
3,4,5-Trimethoxy-N-methyl-N-[3-(4-nitrophenoxy)propyl]benzene methanamine
A mixture of 1-(3-chloropropoxy)-4-nitrobenzene (4.6 g), 3,4,5-trimethoxy-N-methylbenzenemethanamine (4.1 g; Sigma) and potassium carbonate (2.9 g) in DMF (60 ml) was heated at 70° for 24 h. The mixture was then filtered and the filtrate evaporated. The residue was taken up in water and extracted with dichloromethane. The organic layer was washed with water, dried, evaporated and purified by column chromatography eluting with dichloromethane/methanol (99:1) to give the title compound (5.8 g) as a yellow oil. NMR includes signals at d 2.15 (3H,s,N-CH3), 3.3 (2H,s,CH2 --Ar), 3.7 (9H,s,OCH3).

reactant | 1-(3-chloropropoxy)-4-nitrobenzene | 4.6 g | ClCCCOC1=CC=C(C=C1)[N+](=O)[O-] | C9H10ClNO3
reactant | 3,4,5-trimethoxy-N-methylbenzenemethanamine | 4.1 g | COC=1C=C(C=C(C1OC)OC)CNC | C11H17NO3
reactant | potassium carbonate | 2.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 3,4,5-Trimethoxy-N-methyl-N-[3-(4-nitrophenoxy)propyl]benzene methanamine | 5.8 g | COC=1C=C(C=C(C1OC)OC)CN(CCCOC1=CC=C(C=C1)[N+](=O)[O-])C | C20H26N2O6
